US07125901B2
A mixture of N-(4-[2-(4-aminophenyl)ethyl]-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-2-yl)acetamide (150 mg), ethyl 2-(methylthio)-4,5-dihydro-1H-imidazole-1-carboxylate (78.9 mg), ACOH (0.3 ml) and EtOH (3 ml) was refluxed for 7 hours under N2 atmosphere. After cooled to r.t., the reaction mixture was made basic with saturated NaHCO3. The mixture was extracted with AcOEt. The organic layer was washed with brine, dried over anhydrous MgSO4, and concentrated in vacuo. The residue was purified by preparative silica gel chromatography with CHCl3/MeOH (10:1) as an eluent. The amorphous substance was solidified with ethyl ether to give N-{4-{2-[4-(4,5-dihydro-1H-imidazol-2-ylamino)phenyl]ethyl}-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-2-yl}acetamide (17.9 mg) as an off-white amorphous solid.

reactant | N-(4-[2-(4-aminophenyl)ethyl]-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-2-yl)acetamide | 150 mg | NC1=CC=C(C=C1)CCC=1N=C(SC1CC1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C21H23N3O3S2
reactant | ethyl 2-(methylthio)-4,5-dihydro-1H-imidazole-1-carboxylate | 78.9 mg | CSC=1N(CCN1)C(=O)OCC | C7H12N2O2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 3 ml | CCO | C2H6O
product | N-{4-{2-[4-(4,5-dihydro-1H-imidazol-2-ylamino)phenyl]ethyl}-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-2-yl}acetamide | 17.9 mg | N1C(=NCC1)NC1=CC=C(C=C1)CCC=1N=C(SC1CC1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C24H27N5O3S2
